US09422244B2
100 mg (1 mol equiv.) N-Ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboximidothioic acid methyl ester and 92.5 mg (1.05 mol equiv.) 1H-indole-5-sulfonic acid amide were added to 3 mL acetonitrile. The reaction mixture was refluxed overnight and volatiles were removed under reduced pressure. The residue was taken up in ethyl acetate and extracted with 2N NaOH. The organic layer was dried over Na2SO4, filtered and evaporated to dryness. Purification by flash chromatography on silica gel (Et2O:EtOAc=1:1) afforded 152 mg (87%) 1H-indole-5-sulfonic acid (2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methyleneamide. 1H NMR (400 MHz, CDCl3) δ 1.14 (t, J=7.2 Hz, 3H), 1.59-1.79 (m, 8H), 3.43-3.51 (m, 2H), 3.79 (br.s., 2H), 6.63-6.65 (m, 1H), 6.76 (s, 1H), 6.99 (br.s., 1H), 7.30 (t, J=2.8 Hz, 1H), 7.43 (d, J=8.6 Hz, 1H), 7.76 (dd, J=8.6, 1.8 Hz, 1H), 8.27 (br.s., 1H), 8.54 (br.s., 1H).

reactant | N-Ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboximidothioic acid methyl ester | 1 mol, 100 mg | CSC(=NCC)N1CC2(C=N1)CCCC2 | C11H19N3S
reactant | 1H-indole-5-sulfonic acid amide | 1.05 mol, 92.5 mg | N1C=CC2=CC(=CC=C12)S(=O)(=O)N | C8H8N2O2S
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1H-indole-5-sulfonic acid (2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methyleneamide | 152 mg, 87% | C1N(N=CC12CCCC2)C(=NS(=O)(=O)C=2C=C1C=CNC1=CC2)NCC | C18H23N5O2S
